US06818767B2
In analogy to example 6 there was prepared: on reaction of 2-methyl-4-pyrrolidin-1-yl-quinolin-7-ol with 2-bromomethyl benzonitrile, whereby the product was isolated as free base, 2-(2-methyl-4-pyrrolidin-1-yl-quinolin-7-yloxymethyl)-benzonitrile as a brown solid. ISP mass spectrum, m/e: 344.4 (M+1 calculated for C22H21N3O: 344).

reactant | 2-methyl-4-pyrrolidin-1-yl-quinolin-7-ol | CC1=NC2=CC(=CC=C2C(=C1)N1CCCC1)O | C14H16N2O
reactant | 2-bromomethyl benzonitrile | BrCC1=C(C#N)C=CC=C1 | C8H6BrN
product | 2-(2-methyl-4-pyrrolidin-1-yl-quinolin-7-yloxymethyl)-benzonitrile | CC1=NC2=CC(=CC=C2C(=C1)N1CCCC1)OCC1=C(C#N)C=CC=C1 | C22H21N3O
